US07569550B2
a) Diethyl 2-((3,4-dihydro-2H-quinolin-1-yl)methylene)malonate
A mixture of tetrahydroquinoline (13.32 g, 100 mmol) and diethyl ethoxymethylenemalonate (21.62 g, 100 mmol) is heated to 130° C. using a Dean-Stark apparatus. After 1 hour the reaction mixture was concentrated to give the title compound as a brown oil. ESMS m/z 304 (MH+).

reactant | tetrahydroquinoline | 100 mmol, 13.32 g | N1CCCC2=CC=CC=C12 | C9H11N
reactant | diethyl ethoxymethylenemalonate | 100 mmol, 21.62 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
product | Diethyl 2-((3,4-dihydro-2H-quinolin-1-yl)methylene)malonate | N1(CCCC2=CC=CC=C12)C=C(C(=O)OCC)C(=O)OCC | C17H21NO4
